US08044041B2
(1,4-Dichloro-phthalazin-6-yl)-(3-trifluoromethyl-benzyl)-amine
A mixture of 1,4-dichloro-6-amino-phthalazine (33 mg, 0.154 mmol), K2CO3 (79 mg, 0.57 mmol), DMF (5 mL) and 3-(trifluoromethyl)benzyl bromide (2.0 mL, 0.17 mmol) were heated to 85° C. for 18 h. The reaction was cooled, poured onto water and extracted with EtOAc. The combined organic layers were washed with H2O, brine, dried (Na2SO4) and concentrated. Column chromatography (Hexanes/EtOAc) afforded the desired product (15 mg, 26.3%) as a yellow solid. m/z 372.08 (M+1).

reactant | 1,4-dichloro-6-amino-phthalazine | 0.154 mmol, 33 mg | ClC1=NN=C(C2=CC(=CC=C12)N)Cl | C8H5Cl2N3
reactant | K2CO3 | 0.57 mmol, 79 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-(trifluoromethyl)benzyl bromide | 0.17 mmol, 2.0 mL | FC(C=1C=C(CBr)C=CC1)(F)F | C8H6BrF3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (1,4-Dichloro-phthalazin-6-yl)-(3-trifluoromethyl-benzyl)-amine | 15 mg, 26.3% | ClC1=NN=C(C2=CC(=CC=C12)NCC1=CC(=CC=C1)C(F)(F)F)Cl | C16H10Cl2F3N3
